US05756507
2-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(4-hydroxyphenyl)-butyl]amino]acetamide
To a solution of 4-[4-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]amino]butyl]phenol (15 mg in a mixture of 0.7 mL acetonitrile and 0.2 mL N,N-dimethylformamide) was added 0.015 mL of diisopropylethyl amine followed by 8 mg of iodoacetamide and the mixture stirred at room temperature. After 4.5 hours the crude reaction mixture was applied to a silica gel preparative TLC plate and eluted with (methylene chloride:methanol, 93:7). Isolation of the desired band was followed by extraction with methylene chloride:methanol (95:5) and further purification of this material by flash chromatography on silica gel (hexane:ethyl acetate, 2:5) to give the title compound (16 mg). m/e=470 (M+H)

reactant | 4-[4-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]amino]butyl]phenol | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CCNCCCCC1=CC=C(C=C1)O | C28H32N2O
reactant | diisopropylethyl amine | 0.015 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | iodoacetamide | 8 mg | ICC(=O)N | C2H4INO
solvent | acetonitrile | 0.7 mL | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
product | 2-[[2-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(4-hydroxyphenyl)-butyl]amino]acetamide | 16 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CCN(CC(=O)N)CCCCC1=CC=C(C=C1)O | C30H35N3O2
